US09290476B2
(2,6-Dimethylpyridin-3-yl)(1-methyl-1H-1,2,3-triazol-5-yl)methanol
A solution of n-butyllithium in hexanes (2.5 M, 22.5 mL, 56.3 mmol) was added dropwise by syringe to a stirring solution of 1-methyl-1H-1,2,3-triazole (5.00 g, 60.2 mmol, prepared according to PCT Int. Appl., 2008098104) in dry tetrahydrofuran (400 mL) at −55° C. The resulting off-white slurry was stirred at −45° C. for 20 min, whereupon a solution of 2,6-dimethyl-pyridine-3-carbaldehyde (8.33 g, 61.7 mmol) in dry tetrahydrofuran (10 mL) was added dropwise by syringe. After 5 min, the cooling bath was removed and the reaction mixture was allowed to slowly warm. After 45 min, saturated aqueous ammonium chloride solution (10 mL) and ethyl acetate (100 mL) were added. The whole was concentrated by rotary evaporation. The residue was dissolved in ethyl acetate (300 mL). The organic solution was washed with saturated aqueous sodium chloride solution (100 mL, containing excess solid sodium chloride). The aqueous layer was extracted with ethyl acetate (2×100 mL). The organic layers were combined and the combined solution was concentrated. Ether (100 mL) was added to the residue and the mixture was sonicated for 20 min during which time a white solid crashed out. The solids were collected by filtration. Ether (100 mL) was added to the collected solids and the mixture sonicated a second time. After 20 min, the mixture was filtered and the solids were collected to provide the title compound as a fine powder.

reactant | n-butyllithium | C(CCC)[Li]
reactant | 1-methyl-1H-1,2,3-triazole | 60.2 mmol, 5.00 g | CN1N=NC=C1 | C3H5N3
reactant | 2,6-dimethyl-pyridine-3-carbaldehyde | 61.7 mmol, 8.33 g | CC1=NC(=CC=C1C=O)C | C8H9NO
solvent | tetrahydrofuran | 400 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | (2,6-Dimethylpyridin-3-yl)(1-methyl-1H-1,2,3-triazol-5-yl)methanol | CC1=NC(=CC=C1C(O)C1=CN=NN1C)C | C11H14N4O
